US05270308
m-Chloroperbenzoic acid (70% purity, 4.64 g) was added with ice-cooling to a solution of 2,2-dimethyl-6-phenylthio-3,4-dihydro-2H-1,3-benzoxazin-4-one (2.24 g) in dichloromethane (50 ml) and the mixture was stirred for 30 minutes. The reaction mixture was poured into an aqueous sodium sulfite solution and the mixture was extracted by addition of ethyl acetate. The organic layer was successively washed with an aqueous sodium carbonate solution and saturated saline solution, dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was washed with isopropyl ether to obtain 2,2-dimethyl-6-phenylsulfonyl-3,4-dihydro-2H-1,3-benzoxazin-4-one (2.50 g) (Compound A-13). The physical properties are shown in Table 1.

reactant | m-Chloroperbenzoic acid | 4.64 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2,2-dimethyl-6-phenylthio-3,4-dihydro-2H-1,3-benzoxazin-4-one | 2.24 g | CC1(OC2=C(C(N1)=O)C=C(C=C2)SC2=CC=CC=C2)C | C16H15NO2S
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2,2-dimethyl-6-phenylsulfonyl-3,4-dihydro-2H-1,3-benzoxazin-4-one | 2.50 g | CC1(OC2=C(C(N1)=O)C=C(C=C2)S(=O)(=O)C2=CC=CC=C2)C | C16H15NO4S
